US06413947B1
Under nitrogen atmosphere, to a solution of 5-[5—(4-methylphenyl)thiophen-2-yl]valeric acid (2.60 g) in tetrahydrofuran (30 ml) was added oxalyl chloride,(1.24 ml) at room temperature and then a drop of DMF, and the mixture was stirred 1 hour. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in dichloromethane(30 ml). To the mixture was added tin tetra-chloride (1.5 ml) at 0° C., and the mixture was stirred at room temperature for 3 hours. The reaction mixture was added to water to stop the reaction, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane:=1:9→1:5) to give 2—(4-methylphenyl)-4-oxo-5,6,7,8-tetrahydro-4H-cyclo-hepta[b]thiophene (2.07 g) as pale yellow crystals.

reactant | 5-[5—(4-methylphenyl)thiophen-2-yl]valeric acid | 2.60 g | CC1=CC=C(C=C1)C1=CC=C(S1)CCCCC(=O)O | C16H18O2S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2—(4-methylphenyl)-4-oxo-5,6,7,8-tetrahydro-4H-cyclo-hepta[b]thiophene | 2.07 g | CC1=CC=C(C=C1)C1=CC2=C(S1)CCCCC2=O | C16H16OS
